US04116951
Boc-Ala-Ala-OBzl.
Boc-Ala-Ala-OH (7.23 g, 27.8 mmol) was dissolved in a mixture of 200 ml MeOH and 20 ml H2O. Cs2CO3 solution (20% aqueous) was added until the pH reached 7.0 (~30 ml) and the resultant neutral solution evaporated to dryness. The residue was re-evaporated twice with DMF (150 ml) and the gelatenous solid that remained was stirred in 120 ml DMF with benzyl bromide (7.2 g, 42 mmol) for 15 hours. The solvent was then removed by evaporation and the residue treated with 500 ml water. The product precipitated as an oil which gradually solidified on standing. It was taken up in EtOAc (400 ml), washed with H2O (3 times), dried (Na2SO4), and evaporated to a syrup which on treatment with petroleum ether began to crystallize. The product was recrystallized from EtOAc and petroleum ether to yield, 7.2 g (73.8%); mp 71°-73° (lit. mp 73°-74° ; D. A. Laufer et al., J. Amer. Chem. Soc., 90, 2696 (1968)).

reactant | Boc-Ala-Ala-OH | 27.8 mmol, 7.23 g | N([C@@H](C)C(=O)N[C@@H](C)C(=O)O)C(=O)OC(C)(C)C | C11H20N2O5
reactant | Cs2CO3 | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | benzyl bromide | 42 mmol, 7.2 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | MeOH | 200 ml | CO | CH4O
solvent | H2O | 20 ml | O | H2O
solvent | DMF | 120 ml | CN(C)C=O | C3H7NO
product | Boc-Ala-Ala-OBzl | N([C@@H](C)C(=O)N[C@@H](C)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C18H26N2O5
